US07300951B2
To a solution of methyl N-[(5-chlorothien-2-yl)sulfonyl]-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-dl-norvalinate (0.5 g, 1.11 mmol) in THF (10 mL) was added LiBH4 (2.28 mL, 4.46 mol) under N2 atmosphere at 0° C. The reaction was allowed to warm to 25° C. for 19 h. The reaction was cooled to 0° C. and quenched with 2N HCl (slow addition), diluted in ether (40 mL) and the organic layer was washed sequentially with 1N aqueous HCl (10 mL), saturated aqueous NaHCO3 (10 mL) and brine (15 mL), then dried over MgSO4, filtered and concentrated to obtain a crude oil (0.362 g). The crude product was purified by the Biotage Flash™ 12 chromatography system, eluent: 1:6 EtOAc-hexanes, to afford 5-chloro-N-[4,4,4-trifluoro-1-(hydroxymethyl)-2-(2,2,2-trifluoroethyl)butyl]thiophene-2-sulfonamide as a colorless oil (0.001 g, 2.36%). Mass Spectrum (−ESI): 418 (M−H)−.

reactant | methyl N-[(5-chlorothien-2-yl)sulfonyl]-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-dl-norvalinate | 1.11 mmol, 0.5 g | ClC1=CC=C(S1)S(=O)(=O)NC(C(CC(F)(F)F)CC(F)(F)F)C(=O)OC | C12H12ClF6NO4S2
reactant | LiBH4 | 4.46 mol, 2.28 mL | [Li+].[BH4-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-chloro-N-[4,4,4-trifluoro-1-(hydroxymethyl)-2-(2,2,2-trifluoroethyl)butyl]thiophene-2-sulfonamide | 0.001 g, 2.36% | ClC1=CC=C(S1)S(=O)(=O)NC(C(CC(F)(F)F)CC(F)(F)F)CO | C11H12ClF6NO3S2
